* Z:\mnt\design.r\spice\examples\3478.asc
V1 N001 0 10
L1 N002 N003 10µ Rpar=2K
C1 N009 0 .01µ
R1 N007 0 47K
C2 N004 0 2.2µ
D1 N006 N012 LXHL-BW02 N=4
V2 N010 0 PULSE(5 0 1.1m 1u 1u .9m 1m)
XU1 N003 MP_01 N001 N001 N002 N004 N006 N008 N009 N005 N001 N005 N005 N010 N007 N011 0 LT3478
R2 N005 N008 100K
R3 N008 0 121K
C3 N011 0 .01µ
M§Q1 N012 N010 0 0 IRF7201
R4 N004 N006 .1
D5 N003 N004 1N5818
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 6m startup
.lib LT3478.sub
.backanno
.end
